US04891428
2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methyl-5-methylthiomethoxy-nicotinic acid methyl ester
A solution of 2.5 g (8.19 mmol) 5-hydroxy-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methyl-nicotinic acid methyl ester in 25 ml dimethyl sulfoxide is reacted with 0.26 g (8.19 mmol) sodium hydride (80%) and after 10 minutes' stirring, 0.87 g (9.01 mmol) chlorodimethylsulfide is added. It is stirred overnight, then added to 500 ml ice water. The product is extracted with ethyl acetate, the extract is dried over magnesium sulfate, and compressed. The residue is chromatographed over silica gel with ethyl acetate/hexane 1:1.

reactant | 5-hydroxy-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methyl-nicotinic acid methyl ester | 8.19 mmol, 2.5 g | COC(C1=C(N=C(C(=C1)O)C)C=1NC(C(N1)(C)C(C)C)=O)=O | C15H19N3O4
reactant | sodium hydride | 8.19 mmol, 0.26 g | [H-].[Na+]
reactant | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
product | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methyl-5-methylthiomethoxy-nicotinic acid methyl ester | COC(C1=C(N=C(C(=C1)OCSC)C)C=1NC(C(N1)(C)C(C)C)=O)=O | C17H23N3O4S
